US07435751B2
Step 1: Preparation of 7-fluoro-1-(2-fluoro-ethyl)-1H-indole-2,3-dione
7-Fluoro-1H-indole-2,3-dione (prepared according to the method of Gassman as described in U.S. Pat. No. 4,188,325 (2.00 g, 12.1 mmol), 1-iodo-2-fluoroethane (4.21 g, 24.2 mmol) and potassium carbonate (3.30 g, 24.2 mmol) in DMF (20 ml) are stirred at room temperature for 20 hours. The reaction mixture is diluted with cold water and the resulting precipitate filtered and dried to give the title compound as an orange solid. HPLC r.t. 4.18 min; MS for C10H7F2NO2 m/z 212.1 (M+H)+.

reactant | 7-Fluoro-1H-indole-2,3-dione | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
reactant | 1-iodo-2-fluoroethane | 24.2 mmol, 4.21 g | ICCF | C2H4FI
reactant | potassium carbonate | 24.2 mmol, 3.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-fluoro-1-(2-fluoro-ethyl)-1H-indole-2,3-dione | FC=1C=CC=C2C(C(N(C12)CCF)=O)=O | C10H7F2NO2
